### ISSUE TITLE
`failed to elaborate eliminator, insufficient number of arguments, expected type: […]`

### ISSUE THREAD

**Issue by euprunin** [chasenorman/CanonicalLean#2]
When trying the following test examples:

```
import Canonical

example (a : Nat) : a = a := by canonical
example (a : Nat) : a = a + 0 := by canonical
example (a : Nat) : 0 + a + 0 = a + 0 := by canonical
example (a b : Nat) : a + b = b + a := by canonical 60
```

I get the following expanded suggestions:

```
import Canonical

example (a : Nat) : a = a := by exact Eq.refl a
example (a : Nat) : a = a + 0 := by exact Eq.refl a
example (a : Nat) : 0 + a + 0 = a + 0 := by exact
  Nat.rec (motive := fun t ↦ Nat.zero.add t = t)
    (Nat.rec (motive := fun t ↦ Nat.zero = Nat.zero) (Eq.refl Nat.zero) (fun n n_ih ↦ n_ih) a)
    (fun n n_ih ↦
      Eq.rec (motive := fun a t ↦ (Nat.zero.add n).succ = a.succ) (Eq.refl (Nat.zero.add n).succ)
        n_ih)
    a
example (a b : Nat) : a + b = b + a := by exact
  Nat.rec (motive := fun t ↦ t.add b = b.add t)
    (Nat.rec (motive := fun t ↦ Nat.zero.add t = t) (Eq.refl Nat.zero)
      (fun n n_ih ↦
        Eq.rec (motive := fun a t ↦ (Nat.zero.add n).succ = a.succ) (Eq.refl (Nat.zero.add n).succ)
          n_ih)
      b)
    (fun n n_ih ↦
      Eq.rec (motive := fun a t ↦ n.succ.add b = a.succ)
        (Nat.rec (motive := fun t ↦ n.succ.add t = (n.add t).succ) (Eq.refl n.succ)
          (fun n_1 n_ih ↦
            Eq.rec (motive := fun a t ↦ (n.succ.add n_1).succ = a.succ)
              (Eq.refl (n.succ.add n_1).succ) n_ih)
          b)
        n_ih)
    a
```

Despite the proofs being correct the last two examples gives the error message `failed to elaborate eliminator, insufficient number of arguments, expected type: […]`.

This can be fixed by adding parentheses around the proof term:

```
import Canonical

example (a : Nat) : a = a := by exact Eq.refl a
example (a : Nat) : a = a + 0 := by exact Eq.refl a
example (a : Nat) : 0 + a + 0 = a + 0 := by exact (
  Nat.rec (motive := fun t ↦ Nat.zero.add t = t)
    (Nat.rec (motive := fun t ↦ Nat.zero = Nat.zero) (Eq.refl Nat.zero) (fun n n_ih ↦ n_ih) a)
    (fun n n_ih ↦
      Eq.rec (motive := fun a t ↦ (Nat.zero.add n).succ = a.succ) (Eq.refl (Nat.zero.add n).succ)
        n_ih)
    a)
example (a b : Nat) : a + b = b + a := by exact (
  Nat.rec (motive := fun t ↦ t.add b = b.add t)
    (Nat.rec (motive := fun t ↦ Nat.zero.add t = t) (Eq.refl Nat.zero)
      (fun n n_ih ↦
        Eq.rec (motive := fun a t ↦ (Nat.zero.add n).succ = a.succ) (Eq.refl (Nat.zero.add n).succ)
          n_ih)
      b)
    (fun n n_ih ↦
      Eq.rec (motive := fun a t ↦ n.succ.add b = a.succ)
        (Nat.rec (motive := fun t ↦ n.succ.add t = (n.add t).succ) (Eq.refl n.succ)
          (fun n_1 n_ih ↦
            Eq.rec (motive := fun a t ↦ (n.succ.add n_1).succ = a.succ)
              (Eq.refl (n.succ.add n_1).succ) n_ih)
          b)
        n_ih)
    a)
```

**Comment by chasenorman** [comment]
As an alternative, write `by canonical` on a new line, such that `by exact` does not immediately trigger a new line. Unfortunately, this is an issue in `addExactSuggestion`. Either I will have to create my own version of this function, or get someone from the Lean FRO to change its behavior. 

Also, I had not realized we could synthesize all three recursions for add_comm in under a minute. I am very excited to see this.
